US07052863B2
This substrate was prepared using a method familiar to those skilled in the art. Two grams of Alizarin were dissolved in 5 ml of Pyridine and treated with a mixture of 2.5 ml of Acetic anhydride and 5 ml of Pyridine. After 16 hours at room temperature, the yellow solution was poured into 100 ml of hydrochloric acid containing ice. The precipitated Acetate was recovered by filtration with aspiration and then washed in water. Recrystallization from Acetone yielded 1.4 g of Alizarin-2-acetate in the form of yellow crystals.

reactant | Alizarin | Two grams | C1=CC=C2C(=C1)C(=O)C3=C(C2=O)C(=C(C=C3)O)O | C14H8O4
reactant | Acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | Pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | Pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Alizarin-2-acetate | 1.4 g | CC(=O)OC=1C=CC2=C(C1O)C(=O)C=3C=CC=CC3C2=O | C16H10O5
